US04258187
A solution of 12.3 g (0.05 mole) of 5-chloro-2-methylaminobenzophenone and 11.9 g (0.1 mole) of phenyl isocyanate in 50 ml of methylene chloride was refluxed for 3 days, and then evaporated to dryness under reduced pressure. The residual syrup was stirred with ether until it crystallized. The crystals were collected on a filter and washed with ether to give 12.06 g (66%) of 1-(2-benzoyl-4-chlorophenyl)-1-methyl-3-phenylurea as light yellow crystals. A sample was recrystallized from ethanol to give colorless crystals: mp 158°-160°; 1H nmr (DMSO-d6) δ3.41 ppm (s, 3H), 6.7-7.5 ppm (m, 13H).

reactant | 5-chloro-2-methylaminobenzophenone | 0.05 mole, 12.3 g | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)NC | C14H12ClNO
reactant | phenyl isocyanate | 0.1 mole, 11.9 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-benzoyl-4-chlorophenyl)-1-methyl-3-phenylurea | 12.06 g, 66% | C(C1=CC=CC=C1)(=O)C1=C(C=CC(=C1)Cl)N(C(=O)NC1=CC=CC=C1)C | C21H17ClN2O2
